US07576215B2
2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-IODOPHENOL
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 5-iodo-2-hydroxy-benzaldehyde according to the procedure of Example 66. MS (ESI) m/z 611.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 5-iodo-2-hydroxy-benzaldehyde | IC=1C=CC(=C(C=O)C1)O | C7H5IO2
product | 2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-IODOPHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC(=C1)I)O)C(F)(F)F | C30H22F3IN2O
